US08309581B2
3-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxymethyl]-benzoic acid methyl ester
The title compound was prepared in analogy to Example 19, from 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol (Example 19, intermediate a) and (3-bromomethyl-benzoic acid methyl ester CAS Reg. No. 1129-28-8). Brown sticky solid (90%). MS (Turbo Spray): m/z=524.0 (M+H).

reactant | 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H19ClF2N2O
reactant | 3-bromomethyl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-[5-Chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenoxymethyl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)COC1=C(C=CC(=C1)Cl)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)=O | C29H27ClF2N2O3
